US08623889B2
2,2,2-Trifluoro-N-(7-(5-fluoro-2-methylphenyl)isoquinolin-3-yl)acetamide
To a solution of 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine (150 mg, 0.595 mmol) in dichloromethane (20 mL) at 0° C. was added N,N-diisopropylethylamine (383 mg, 2.9 mmol). 2,2,2-trifluoroacetic anhydride (376 mg, 1.79 mmol) was added dropwise. The reaction mixture was stirred at 0° C. for 1 hour. After a small amount water was added to the reaction mixture, it was extracted with ethyl acetate. The pooled organic phase was concentrated, purified by prep-HPLC to give the desired product (85.9 mg, 41.4%). LCMS (ESI): RT (min)=1.344, M+H+=348.9, method=A; 1H NMR (400 MHz, DMSO-d6) δ 12.13 (s, 1H), 9.29 (s, 1H), 8.54 (s, 1H), 8.13 (s, 1H), 8.84 (d, J=8.8 Hz, 1H), 8.80 (d, J=8.4 Hz, 1H), 7.38-7.36 (m, 1H), 7.18 (d, J=9.2 Hz, 2H), 2.24 (s, 1H).

reactant | 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine | 0.595 mmol, 150 mg | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)N)C | C16H13FN2
reactant | N,N-diisopropylethylamine | 2.9 mmol, 383 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2,2,2-trifluoroacetic anhydride | 1.79 mmol, 376 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2,2,2-Trifluoro-N-(7-(5-fluoro-2-methylphenyl)isoquinolin-3-yl)acetamide | 85.9 mg, 41.4% | FC(C(=O)NC=1N=CC2=CC(=CC=C2C1)C1=C(C=CC(=C1)F)C)(F)F | C18H12F4N2O
